US05051422
N-(2-Methoxyphenyl)-2-[(phenylmethyl)amino]acetamide
To ethanol (100 mL) add benzylamine (35 g, 0.33 mol) and 2-chloro-N-(2-methoxyphenyl)acetamide (22 g, 0.11 mol). Stir and heat the reaction at 50° C. Monitor the progress of the reaction by thin-layer chromatography. Upon completion of the reaction remove the precipitate that has formed by suction filtration and discard. Evaporate the filtrate and partition the residue between ethyl acetate and 2N NaOH(aq). Separate the organic layer and dry it over Na2SO4. Remove the drying agent by filtration and remove the solvent in vacuo. Chromatograph the residue on silica gel (400 g) using hexane/EtOAc (3/1) as eluent to obtain the title compound.

reactant | benzylamine | 0.33 mol, 35 g | C(C1=CC=CC=C1)N | C7H9N
reactant | 2-chloro-N-(2-methoxyphenyl)acetamide | 0.11 mol, 22 g | ClCC(=O)NC1=C(C=CC=C1)OC | C9H10ClNO2
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | N-(2-Methoxyphenyl)-2-[(phenylmethyl)amino]acetamide | COC1=C(C=CC=C1)NC(CNCC1=CC=CC=C1)=O | C16H18N2O2
